US05624935
5-{4-(1-Methyl-1H-imidazo[4,5-c]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 1.94 g of 2-hydroxymethyl-1-methyl-1H-imidazo[4,5-c]pyridine (prepared as described in Preparation 73), 5.71 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 3.1 ml of tributylphosphine, 3.09 g of 1,1'-(azodicarbonyl)dipiperidine and 50 ml of toluene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and methanol in ratios ranging from 1:0 to 10:1 by volume as the eluent, to give 3.55 g of the title compound having Rf=0.08 (on silica gel thin layer chromatography using ethyl acetate as the developing solvent).

reactant | 2-hydroxymethyl-1-methyl-1H-imidazo[4,5-c]pyridine | 1.94 g | OCC=1N(C2=C(C=NC=C2)N1)C | C8H9N3O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 5.71 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 3.1 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 3.09 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-(1-Methyl-1H-imidazo[4,5-c]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | CN1C(=NC=2C=NC=CC21)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C37H30N4O3S
